US06316636B1
Synthesis of PhCH2SCCl3
Benzyl thiocyanate (29.8 g, 0.2 mol), chloroform (76 g, 0.6 mol) and triethylbenzylammonium chloride (0.5 g, 0.002 mol) were stirred vigorously. 40 ml of 50% aqueous sodium hydroxide were added clowly to this solution (mildly exothermic). The temperature increased to 40° C. and was maintained thereat for 4 h with efficient stirring.

reactant | Benzyl thiocyanate | 0.2 mol, 29.8 g | C(C1=CC=CC=C1)SC#N | C8H7NS
reactant | chloroform | 0.6 mol, 76 g | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylbenzylammonium chloride | 0.002 mol, 0.5 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | sodium hydroxide | 40 ml | [OH-].[Na+]
product | PhCH2SCCl3 | C1(=CC=CC=C1)CSC(Cl)(Cl)Cl | C8H7Cl3S
